US06608217B2
A three-necked 50 -ml flask (equipped with a thermometer and a dropping funnel) was charged with 1.0 g (3.6 mmol) of 2,2-bis(fluoromethyl)- 3,4-dihydro-6-(trifluoromethyl)-2 H- 1-benzopyran-4-one, 1.8 g (8.9 mmol) of 2,6-di-tert-butyl-4-methylpyridine, and 10 ml of methylene chloride. Then, 2.0 g (7.0 mmol) of trifluoromethanesulfonic acid anhydride were added in a dropwise manner by spending 5 minutes to the mixture under cooling in an iced water bath at 5-10° C., while the mixture was stirred. After completing the dropping, the temperature of the mixture was gradually increased to room temperature, followed by stirring for 140 hr at room temperature. Then, the methylene chloride was distilled off by an evaporator. The resulting residue was purified by silica gel column chromatography (developing liquid: ethyl acetate/n-hexane=⅛), thereby obtaining 1.1 g (2.7 mmol) of trifluoromethanesulfonic acid 2,2-bis(fluoromethyl) -6-(trifluoromethyl)- 2 H- 1-benzopyran-4-yl ester (yield: 75%). This product was found to have the following properties.

reactant | 2,2-bis(fluoromethyl)- 3,4-dihydro-6-(trifluoromethyl)-2 H- 1-benzopyran-4-one | 3.6 mmol, 1.0 g | FCC1(OC2=C(C(C1)=O)C=C(C=C2)C(F)(F)F)CF | C12H9F5O2
reactant | 2,6-di-tert-butyl-4-methylpyridine | 8.9 mmol, 1.8 g | C(C)(C)(C)C1=NC(=CC(=C1)C)C(C)(C)C | C14H23N
reactant | trifluoromethanesulfonic acid anhydride | 7.0 mmol, 2.0 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | trifluoromethanesulfonic acid 2,2-bis(fluoromethyl) -6-(trifluoromethyl)- 2 H- 1-benzopyran-4-yl ester | 2.7 mmol, 1.1 g, yield: 75% | FCC1(OC2=C(C(=C1)OS(=O)(=O)C(F)(F)F)C=C(C=C2)C(F)(F)F)CF | C13H8F8O4S
